US08420849B2
2-(4-Trifluoromethylphenyl)-3-hydroxy-4-methylcarbonyl thiophene
A chloroform (223 mL) solution of 2-(4-trifluoromethylphenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene (22.25 g, 69.46 mmol, purity: 90%) was cooled to −46° C., and to this solution, a chloroform (334 mL) solution of sulfuryl chloride (6.70 mL, 1.2 equivalent amounts) was dropwise added over a period of 10 minutes, followed by stirring at −4° C. for 10 minutes. The temperature of the solution was raised to 0° C., and water (45 mL) was dropwise added thereto over a period of 15 minutes, followed by liquid separation. The obtained chloroform solution was sequentially washed with water, a saturated salt solution, a saturated sodium hydrogencarbonate aqueous solution, a saturated sodium thiosulfate aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to obtain a crude product. The obtained crude product was isolated and purified by silica gel column chromatography (eluent: hexane/chloroform=1/1 (v/v)) to give the desired product as a yellow solid (14.78 g, yield: 69%).

reactant | chloroform | 223 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(4-trifluoromethylphenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene | 69.46 mmol, 22.25 g | FC(C1=CC=C(C=C1)C1SCC(=C1O)C(=O)C)(F)F | C13H11F3O2S
reactant | chloroform | 334 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl chloride | 6.70 mL, 1.2 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | water | 45 mL | O | H2O
product | 2-(4-Trifluoromethylphenyl)-3-hydroxy-4-methylcarbonyl thiophene | 14.78 g, yield: 69% | FC(C1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C)(F)F | C13H9F3O2S
